US04752645
A mixture of 800 mg of 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one (2.16 mmole), 1.14 g of lithium iodide (8.56 mmoles, 4 equiv.) in 20 ml of pyridine was refluxed for 20 hours. The cooled mixture was diluted with 200 ml of ethyl acetate, then washed with four 30 ml portions of 1N hydrochloric acid, two 30 ml portions of saturated cupric sulfate, 30 ml of water. The organic layer was dried (magnesium sulfate) and concentrated. The residue was triturated with ether to yield 400 mg of (cis)-7-chloro-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one as a white solid.

reactant | 7-chloro-1,3,4,5-tetrahydro-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one | 2.16 mmole, 800 mg | ClC=1C=CC2=C(CC(C(C(N2)=O)(C)C(=O)OC)C2=CC=C(C=C2)OC)C1 | C20H20ClNO4
reactant | lithium iodide | 8.56 mmoles, 1.14 g, 4 equiv. | [I-].[Li+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (cis)-7-chloro-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-3-methyl-2H-1-benzazepin-2-one | 400 mg | ClC=1C=CC2=C(C[C@@H]([C@@H](C(N2)=O)C)C2=CC=C(C=C2)OC)C1 | C18H18ClNO2
